US03953601
PREPARATION OF 2-HYDROXYDIBENZOTHIOPHENE
Butyl lithium (0.05 mole) in ether was added to 2-bromodibenzothiophene (13.15 g, 0.05 mole) in 150 ml dry ether at 0°C. The mixture was then cooled to -70° and freshly distilled tributyl borate (11.5 g, 0.05 mole) dissolved in 50 ml ether was added. The reaction mixture was stirred for 2 hours, and was then allowed to warm up to room temperature. Perhydrol (10 ml) was added and the mixture was refluxed for 1.5 hours. Hydrochloric acid was added and the organic phase was separated. The ether was washed with 10 % ferrous ammonium sulphate solution and then extracted with sodium hydroxide solution. The alkaline aqueous solution was acidified and extracted with ether, which after evaporation gave 8.6 g (86 %) of the desired product. Recrystallization from ligroin gave white crystals with m.p. 152°-155°.

reactant | Butyl lithium | 0.05 mole | C(CCC)[Li]
reactant | 2-bromodibenzothiophene | 0.05 mole, 13.15 g | BrC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C12H7BrS
reactant | tributyl borate | 0.05 mole, 11.5 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | Perhydrol | 10 ml | OO | H2O2
reactant | Hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-HYDROXYDIBENZOTHIOPHENE | 8.6 g, 86 % | OC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C12H8OS
